US05130328
Preparation of N-{[2,3-dichloro-4-cyano-5-(3,4-dichlorophenyl)pyrrol-1-yl]methyl}acetamide
A slurry of 4,5-dichloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile (15.3 g, 0.05 mol) and tetrahydrofuran (80 mL) is cooled to 10° C. and treated portionwise over 20 minutes with sodium hydride (2.2 g, 60% in oil, 0.055 mol). After stirring for 15 minutes this solution is added dropwise to a 50° C. solution of N-(hydroxymethyl)acetamide acetate (ester) (9.18 g, 0.07 mol) and tetrahydrofuran (20 mL). The reaction mixture is refluxed for two hours, cooled to room temperature, diluted with water and extracted with ethyl acetate. The organic extract is washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a solid. Flash chromatography of the solid on silica gel packed in methylene chloride using ethyl acetate/methylene chloride solutions as eluents gives a solid. Recrystallization of the solid from ethyl acetate gives the title product as off white crystals (5.35 g, mp 162°-162.5° C.) which is identified by IR and NMR spectral analyses.

reactant | 4,5-dichloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | 0.05 mol, 15.3 g | ClC=1C(=C(NC1Cl)C1=CC(=C(C=C1)Cl)Cl)C#N | C11H4Cl4N2
reactant | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.055 mol, 2.2 g | [H-].[Na+]
reactant | N-(hydroxymethyl)acetamide acetate | 0.07 mol, 9.18 g | C(C)(=O)O.OCNC(C)=O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
product | N-{[2,3-dichloro-4-cyano-5-(3,4-dichlorophenyl)pyrrol-1-yl]methyl}acetamide | ClC=1N(C(=C(C1Cl)C#N)C1=CC(=C(C=C1)Cl)Cl)CNC(C)=O | C14H9Cl4N3O
